US04150139
By a procedure similar to that described in Example 34, 3-methylsulfonyl-11H-s-triazolo[3,4-b][3] benzazepine was reacted with sodium ethoxide/ethanol, in lieu of sodium methoxide/methanol, to obtain 3-ethoxy-11H-s-triazolo[3,4-b][3]benzazepine as crystals. Recrystallization from acetone yielded colorless needles, melting point: 143°-144° C.

reactant | 3-methylsulfonyl-11H-s-triazolo[3,4-b][3] benzazepine | CS(=O)(=O)C1=NN=C2CC3=C(C=CN21)C=CC=C3 | C12H11N3O2S
reactant | sodium ethoxide ethanol | [O-]CC.[Na+].C(C)O
reactant | sodium methoxide methanol | C[O-].[Na+].CO
product | 3-ethoxy-11H-s-triazolo[3,4-b][3]benzazepine | C(C)OC1=NN=C2CC3=C(C=CN21)C=CC=C3 | C13H13N3O
